*
R1 N078 N020 50
R2 N080 N079 20
R3 N082 N081 30
C1 N079 N078 1µ
C2 N081 N080 2µ
C3 N083 N082 1µ
R4 N084 N083 50
R5 N086 N085 20
R6 N088 N087 30
C4 N085 N084 1µ
C5 N087 N086 2µ
C6 N089 N088 1µ
R7 N090 N089 50
R8 N092 N091 20
R9 N094 N093 30
C7 N091 N090 1µ
C8 N093 N092 2µ
C9 N095 N094 1µ
R10 N096 N095 50
C10 0 N096 1µ
R11 N077 0 50
R12 N075 N076 20
R13 N073 N074 30
C11 N076 N077 1µ
C12 N074 N075 2µ
C13 N072 N073 1µ
R14 N071 N072 50
R15 N069 N070 20
R16 N067 N068 30
C14 N070 N071 1µ
C15 N068 N069 2µ
C16 N066 N067 1µ
R17 N065 N066 50
R18 N063 N064 20
R19 N061 N062 30
C17 N064 N065 1µ
C18 N062 N063 2µ
C19 N060 N061 1µ
R20 N059 N060 50
C20 N020 N059 1µ
R21 N040 N020 50
R22 N042 N041 20
R23 N044 N043 30
C21 N041 N040 1µ
C22 N043 N042 2µ
C23 N045 N044 1µ
R24 N046 N045 50
R25 N048 N047 20
R26 N050 N049 30
C24 N047 N046 1µ
C25 N049 N048 2µ
C26 N051 N050 1µ
R27 N052 N051 50
R28 N054 N053 20
R29 N056 N055 30
C27 N053 N052 1µ
C28 N055 N054 2µ
C29 N057 N056 1µ
R30 N058 N057 50
C30 0 N058 1µ
R31 N039 0 50
R32 N037 N038 20
R33 N035 N036 30
C31 N038 N039 1µ
C32 N036 N037 2µ
C33 N034 N035 1µ
R34 N033 N034 50
R35 N031 N032 20
R36 N029 N030 30
C34 N032 N033 1µ
C35 N030 N031 2µ
C36 N028 N029 1µ
R37 N027 N028 50
R38 N025 N026 20
R39 N023 N024 30
C37 N026 N027 1µ
C38 N024 N025 2µ
C39 N022 N023 1µ
R40 N021 N022 50
C40 N020 N021 1µ
R41 N001 N020 50
R42 N003 N002 20
R43 N005 N004 30
C41 N002 N001 1µ
C42 N004 N003 2µ
C43 N006 N005 1µ
R44 N007 N006 50
R45 N009 N008 20
R46 N011 N010 30
C44 N008 N007 1µ
C45 N010 N009 2µ
C46 N012 N011 1µ
R47 N013 N012 50
R48 N015 N014 20
R49 N017 N016 30
C47 N014 N013 1µ
C48 N016 N015 2µ
C49 N018 N017 1µ
R50 N019 N018 50
C50 0 N019 1µ
V1 0 N020 SINE(0 10 1k)
.tran 0 1m 0 1u
.backanno
.end
